US07872038B2
5-Amino-1-(2-chloro-6-methoxy-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfinylpyrazole (Compound Number 8-05)
To a mixture of 5-amino-1-(2-chloro-6-methoxy-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylthiopyrazole (Compound number 8-04, 1.04 g, 2.4 mmol) in dichloroethane (10 ml) was added peroxyacetic acid (acetic acid solution 35%, 0.62 g, 2.9 mmol). The mixture was stirred at 20° C. for 20 hours. After extractive workup (heptane-ethyl acetate, water) and column chromatography the title product was obtained (0.55 g). Two diastereomers were observed in NMR and HPLC (46% and 49%), mp 195° C., 1H-NMR: 3.94 (3H), 5.04 (2H), 7.24 and 7.49; 19F-NMR: −63.9, −75.3 and −75.4.

reactant | 5-amino-1-(2-chloro-6-methoxy-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylthiopyrazole | 2.4 mmol, 1.04 g | NC1=C(C(=NN1C1=C(C=C(C=C1OC)C(F)(F)F)Cl)C#N)SC(F)(F)F | C13H7ClF6N4OS
reactant | peroxyacetic acid | 2.9 mmol, 0.62 g | C(C)(=O)OO | C2H4O3
reactant | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
reactant | water | O | H2O
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | 5-Amino-1-(2-chloro-6-methoxy-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfinylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1OC)C(F)(F)F)Cl)C#N)S(=O)C(F)(F)F | C13H7ClF6N4O2S
